US04380644
3.0 g of tert.-butyl (4S)-1-ethyl-2-oxo-imidazolidine-4-carboxylate, 1.6 g of potassium tert.-butoxide, (2S)-3-benzoylthio-2-methylpropionyl chloride (prepared from 3.2 g of (2S)-3-benzoylthio-2-methylpropionic acid and 10 ml of thionyl chloride) and 40 ml of tetrahydrofuran are treated in the same manner as described in Example 2-(2). Then, the oily residue obtained is purified by silica gel chromatography (Solvent, toluene-ethyl acetate(20:1)). 4.2 g of tert.-butyl (4S)-1-ethyl-3-[(2S)-3-benzoylthio-2-methylpropionyl]-2-oxo-imidazolidine-4-carboxylate are obtained as colorless crystals.

reactant | tert.-butyl (4S)-1-ethyl-2-oxo-imidazolidine-4-carboxylate | 3.0 g | C(C)N1C(N[C@@H](C1)C(=O)OC(C)(C)C)=O | C10H18N2O3
reactant | potassium tert.-butoxide | 1.6 g | CC(C)([O-])C.[K+]
reactant | (2S)-3-benzoylthio-2-methylpropionyl chloride | 10 ml, 3.2 g | C(C1=CC=CC=C1)(=O)SC[C@@H](C(=O)Cl)C | C11H11ClO2S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | tert.-butyl (4S)-1-ethyl-3-[(2S)-3-benzoylthio-2-methylpropionyl]-2-oxo-imidazolidine-4-carboxylate | 4.2 g, Yield: 71.3% | C(C)N1C(N([C@@H](C1)C(=O)OC(C)(C)C)C([C@@H](CSC(C1=CC=CC=C1)=O)C)=O)=O | C21H28N2O5S
